US06080859
(3S)-3-(t-Butyldimethylsilyloxy)methyl-4-benzylmorpholine (1.19 g, 3.7 mmol) was treated for hydrogenation in the presence of 10% palladium-carbon (0.36 g) in 5 mL of ethanol and 0.32 mL of chloroform for 4 hours (one atmosphere). The catalyst was removed by filtration, and the filtrate was concentrated. The precipitated crystalline matter was washed with ether to obtain (3S)-3-(t-butyldimethylsilyloxy)methylmorpholine hydrochloride (0.96 g (96%).

reactant | (3S)-3-(t-Butyldimethylsilyloxy)methyl-4-benzylmorpholine | 3.7 mmol, 1.19 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1N(CCOC1)CC1=CC=CC=C1 | C18H31NO2Si
reactant | chloroform | 0.32 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.36 g | [C].[Pd]
product | (3S)-3-(t-butyldimethylsilyloxy)methylmorpholine hydrochloride | Cl.[Si](C)(C)(C(C)(C)C)OC[C@H]1NCCOC1 | InChI=1S/C11H25NO2Si.ClH/c1-11(2,3)15(4,5)14-9-10-8-13-7-6-12-10;/h10,12H,6-9H2,1-5H3;1H/t10-;/m0./s1
